2186-03-05 08:25:00 Physician Resident Progress Note
Chief Complaint: Coffee ground emesis
   24 Hour Events:
 EKG - At [**2186-3-4**] 09:00 PM
   -Initial Hct down to 31.9, received 2L NS for persistent tachycardia
   and apparent dehydration, tachycardia (rates>100) improved after
   fluids/blood
   -Repeat Hct of 25 so got 1 unit pRBC's
   -GI said to continue pantoprazole drip, they may scope today
   -Surgery affirmed need to scope
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2186-3-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Flowsheet Data as of  [**2186-3-5**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 96 (90 - 111) bpm
   BP: 142/66(85) {111/44(60) - 158/118(123)} mmHg
   RR: 24 (12 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,293 mL
                                                                    532 mL
   PO:
           TF:
   IVF:
                                                                  1,293 mL
                                                                    182 mL
   Blood products:
   350 mL
   Total out:
                                                                    395 mL
                                                                    570 mL
   Urine:
                                                                    395 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    898 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, coffee ground material in
   mouth, MM dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, and situation, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   461 K/uL
   9.1 g/dL
   97 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   43 mg/dL
   115 mEq/L
   149 mEq/L
   27.7 %
   27.7 K/uL
         [image002.jpg]
                             [**2186-3-4**]  03:19 PM
                             [**2186-3-4**]  06:40 PM
                             [**2186-3-4**]  11:50 PM
                             [**2186-3-5**]  04:30 AM
   WBC
   27.7
   Hct
   31.8
   29.1
   25.0
   27.7
   Plt
   461
   Cr
   0.9
   0.9
   Glucose
   97
   Other labs: PT / PTT / INR:13.9/24.0/1.2, CK / CKMB / Troponin-T:53/4/
   Assessment and Plan
   86 year old female with history of HTN, depression, and GIB presenting
   with one day of hemetemesis in the context of extensive ASA use
   admitted to icu for upper GIB assessment.
   1.) Gastrointestinal Bleed:  Patient with likely upper GIB probably
   from ASA use +/- stopping PPI causing ulceration or
   gastritis/duodenitis.  Given intrathoracic stomach volvulus is on
   differential though extremely unlikely given patient is overall
   non-toxic.
   - Speak to GI re: timing of endoscopy
   - Continue IV PPI drip
   -Two peripheral IV
s, active type and cross
   -Ondansetron and metoclopramide PRN for nausea
   -Transfuse for Hct <22 or Hct drop of > 3 in six hours
   2)  Leukocytosis:  The patient has a history of elevated WBC counts and
   has had partial evals for myeloid process in the past.  Potentially due
   to cat bite/infection as well as UTI with vomiting and other reasons
   for elevated WBC count though this still seems quite high.  No abnormal
   or left shifted forms suggesting failure of myeloid differentiation.
   -treat cat bite per below
   -trend leukocytosis and fever curve, repeat diff in AM
   3.) EKG changes:  These are improved on repeat ECG, which seems
   consistent with resolution of demand ischemia as tachycardia and anemia
   were treated.  Patient now with two sets of negative cardiac enzymes.
   -Repeat ECG
    4. Cat Bite: Patient denied fever, chills to me but reported in ED.
   Given high rate of infection of cat bites will initiate empiric
   treatment with ampicillin-sublactam.
   -Amp sublactam 3gm IV Q6hr
    5.)  [**Last Name (un) **]: Most likely Cr elevation due to dehydration/prerenal.  Cr
   falling after hydration.
   -Continue to follow.
   6) Probable UTI: Probable UTI given pyuria, nitrites, and leukocyte
   esterase.
   -UTI most likely E coli given nitrites which should be covered by
   amp-sublactam, no further abx at this time but will f/u cx
   -Patient with known temporary stent that has not been removed, will d/w
   urology
   7)  Goiter on R side of neck: This is a chronic problem.
   -TSH WNL and T4 pending
   -arrange o/p endocrine f/u
   8) Social: Pt lives alone and reports trouble getting to MD [**Last Name (Titles) 5915**]
   (though cat sees vet 2*/yr) Will get SW involved to find resources for
   this very pleasant lady.
   8)  FEN: NPO for now  with ice chips pending decision on EGD
   # PPX: PPI, pneumoboots
   # CODE: DNR but not opposed to temporary intubation
   # ACCESS: 18g, 20g, holding off on EJ for now
   # COMM: [**Name (NI) **] and neighbor [**First Name8 (NamePattern2) 129**] [**Name (NI) 3383**] [**Telephone/Fax (1) 5891**] (H), [**Telephone/Fax (1) 5892**]
   (cell)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-4**] 02:55 PM
   20 Gauge - [**2186-3-4**] 06:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2186-03-05 09:49:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:
   Chief Complaint: GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2186-3-4**] 09:00 PM
 1u pRBC
 GI consult
 Surgery
 IVF bolus
                       History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2186-3-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-5**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.9
   HR: 89 (89 - 111) bpm
   BP: 111/47(63) {111/44(60) - 158/118(123)} mmHg
   RR: 28 (12 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  1,293 mL
                                                                    542 mL
   PO:
           TF:
   IVF:
                                                                  1,293 mL
                                                                    192 mL
   Blood products:
   350 mL
   Total out:
                                                                    395 mL
                                                                    830 mL
   Urine:
                                                                    395 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    898 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender:
   Extremities: Right: Absent, Left: Absent, Cyanosis
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   461 K/uL
   97 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.1 mEq/L
   43 mg/dL
   115 mEq/L
   149 mEq/L
   27.7 %
   27.7 K/uL
        [image002.jpg]
                             [**2186-3-4**]  03:19 PM
                             [**2186-3-4**]  06:40 PM
                             [**2186-3-4**]  11:50 PM
                             [**2186-3-5**]  04:30 AM
   WBC
   27.7
   Hct
   31.8
   29.1
   25.0
   27.7
   Plt
   461
   Cr
   0.9
   0.9
   Glucose
   97
   Other labs: PT / PTT / INR:13.9/24.0/1.2, CK / CKMB / Troponin-T:53/4/
   Assessment and Plan
   GIB
   - hct appropriate bump with transfusion
   - tachycardia resolved with IVF resuscitation
   - presumed UGIB - gastritis vs. PUD in setting of NSAID use after cat
   bite and stoping PPI
   - PPI
   - GI following - evaluating for endoscopy
   - [**Doctor First Name **] following
   - serial hct
   - large bore iv access x 2
    Cat bite
   - sig cellulitis
   - Amp/Sulbactam to cover usual cat bite pathogens
   leukocytosis
   - cellulitis at site of cat bite vs. UTI
   Anemia
   - GIB
   Hypernatremia
   - D5 1/2NS
   RUL mass
   - most likely goiter though neck exam not impressive.  Malignancy
   possible including Pancoast turmor (though has no horner's syndrome or
   shouldler pain) / other NSCLCA, NHL, etc
   - repeat CT scan as CXR showing increasingly tortuous trachea path
   suggesting increasing size
   - possible thoracic consult
   EKG changes
   - will repeat once HR slows, initial enzymes negative
   Social services consult
   Goiter
    - check TFT's
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-4**] 02:55 PM
   20 Gauge - [**2186-3-4**] 06:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2186-03-06 07:43:00 Physician Resident Progress Note
Chief Complaint: GIB
   24 Hour Events:
   -Per GI, ok to give clears until midnight. Will scope Mon am. Ordered
   fluids for after midnight- D5 1/2 NS at 100cc/hr
   -e-mailed Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] (urology) to let him know the pt is here
   if he wants to remove her ureteral stent. He would like a KUB which was
   ordered for Mon am
   - Made appt [**4-10**] to est primary care with myself
   -Chest CT to monitor goiter growth- wet read: Thyroid has moderately
   increased in size since [**2184-10-14**], now measuring 5.7 (ML) x 5.6 (AP) x
   7.5 (CC) cm from 5.1 (ML) x 4.3 (AP) x 6 (CC) cm on [**2184-10-14**].
   There is mildly increased leftward tracheal deviation without
   significant tracheal narrowing. Thoracic stomach without evidence of
   volvulus is similar to [**2184-10-14**].
   - 2PIVs thought adequate for access as Hct remained stable throughout
   the day. No further vomitting or bloody bowel movements
   -Hypernatremia resolved to 145 in afternoon after pt allowed to take in
   PO fluids and given 1L D5 1/2 NS
   -urine culture pending- unasyn currently covering UTI on UA and cat
   bite
   - Social work consult in- pt seems to travel outside her home very
   little. Worried about leaving for fear of breaking her hip. Perhaps pt
   could get chair car to take her to [**Month/Day/Year 5915**] in wheelchair
   -DNR status entered in POE- confirmed with pt
   -need to consider SSRI. Per nursing, pt seems depressed
   -Iron studies normal except for slightly incr iron at 193 (nl up to
   160)
   -tums ordered PRN for heartburn
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2186-3-5**] 04:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-6**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt c/o substernal buring pain. Mild nausea.
   Otherwise denies pain, SOB, other sx at this time.
   Flowsheet Data as of  [**2186-3-6**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 73 (73 - 95) bpm
   BP: 106/40(56) {101/38(55) - 162/80(97)} mmHg
   RR: 30 (18 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,193 mL
                                                                    986 mL
   PO:
             TF:
   IVF:
                                                                  1,843 mL
                                                                    986 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,820 mL
                                                                    525 mL
   Urine:
                                                                  1,820 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    373 mL
                                                                    461 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   378 K/uL
   8.3 g/dL
   125 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.4 mEq/L
   23 mg/dL
   111 mEq/L
   143 mEq/L
   25.9 %
   23.5 K/uL
        [image002.jpg]
                             [**2186-3-4**]  03:19 PM
                             [**2186-3-4**]  06:40 PM
                             [**2186-3-4**]  11:50 PM
                             [**2186-3-5**]  04:30 AM
                             [**2186-3-5**]  10:29 AM
                             [**2186-3-5**]  04:19 PM
                             [**2186-3-6**]  02:23 AM
   WBC
   27.7
   23.5
   Hct
   31.8
   29.1
   25.0
   27.7
   28.8
   28.2
   25.9
   Plt
   461
   378
   Cr
   0.9
   0.9
   0.8
   Glucose
   97
   125
   Other labs: PT / PTT / INR:13.9/24.0/1.2, CK / CKMB / Troponin-T:53/4/,
   Differential-Neuts:88.9 %, Lymph:4.8 %, Mono:4.0 %, Eos:1.9 %, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   86 year old female with history of HTN, depression, and GIB presenting
   with one day of hemetemesis in the context of extensive ASA use
   admitted to icu for upper GIB assessment.
   1.) Gastrointestinal Bleed:  Patient with likely upper GIB probably
   from ASA use +/- stopping PPI causing ulceration or
   gastritis/duodenitis.  Chest CT [**3-5**] ruled out volvulus but showed
   unchanged hiatal hernia.
   - EGD per GI today
   - Continue IV PPI drip
   -Two peripheral IV
s, active type and cross
   -Ondansetron and metoclopramide PRN for nausea
   -Transfuse for Hct <25 or Hct drop of > 3 in six hours, Check Hct Q 6
   hrs
   2)  Leukocytosis:  The patient has a history of elevated WBC counts and
   has had partial evals for myeloid process in the past.  Potentially due
   to cat bite/infection as well as UTI with vomiting and other reasons
   for elevated WBC count though this still seems quite high.  No abnormal
   or left shifted forms suggesting failure of myeloid differentiation.
   -treat cat bite per below
   -trend leukocytosis and fever curve, repeat diff in AM
   3.) EKG changes:  These are improved on repeat ECG, which seems
   consistent with resolution of demand ischemia as tachycardia and anemia
   were treated.  Patient now with two sets of negative cardiac enzymes.
   -will monitor for any cardiac sx
    4. Cat Bite: Patient denied fever, chills in ICU but reported in ED.
   Given high rate of infection of cat bites empirically treating with
   ampicillin-sublactam. Today, area of bite is fluctuant. Pt has
   consented to drainage of abscess
   -needle drainage of abscess after EGD with pt sedated today
    5.)  [**Last Name (un) **]: Most likely Cr elevation due to dehydration/prerenal.  Cr
   now down to 0.8.
   -Continue to follow.
   6) Probable UTI: Probable UTI given pyuria, nitrites, and leukocyte
   esterase.
   -UTI most likely E coli given nitrites which should be covered by
   amp-sublactam, no further abx at this time but will f/u cx
   -Patient with known temporary stent that has not been removed- per
   urology ([**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]) wanted KUB this am. Now would like CT non
   contrast abd and pelvis to look for hydro and stent placement. Will
   discuss this with pt today.
   7)  Goiter on R side of neck: TSH and T4  WNL  this admission. Goiter
   slightly larger on CT Chest [**3-5**]
   -arrange o/p endocrine f/u
   8) Social: Pt lives alone and reports trouble getting to MD [**Last Name (Titles) 5915**]
   (though cat sees vet 2*/yr) Will get SW involved to find resources for
   this very pleasant lady.  She seems to have trouble with transportation
   and will talk to social work about this.
   # COMM: [**Name (NI) **] and neighbor [**First Name8 (NamePattern2) 129**] [**Name (NI) 3383**] [**Telephone/Fax (1) 5891**] (H), [**Telephone/Fax (1) 5892**]
   (cell)
   ICU Care
   Nutrition: NPO this am for EGD and until MS resolves s/p procedure
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-3-4**] 02:55 PM
   20 Gauge - [**2186-3-4**] 06:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2186-03-06 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: GI bleed
   24 Hour Events: I unit pRBC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2186-3-5**] 04:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-6**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-6**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 73 (73 - 95) bpm
   BP: 106/40(56) {101/38(55) - 162/80(97)} mmHg
   RR: 30 (18 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,193 mL
                                                                  1,302 mL
   PO:
             TF:
   IVF:
                                                                  1,843 mL
                                                                  1,302 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,820 mL
                                                                    525 mL
   Urine:
                                                                  1,820 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    373 mL
                                                                    777 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: mildly
   Extremities: Fluctuance of cat bite site; slight enlargement of LLE.
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   378 K/uL
   125 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.4 mEq/L
   23 mg/dL
   111 mEq/L
   143 mEq/L
   22.1 %
   23.5 K/uL
        [image002.jpg]
                             [**2186-3-4**]  03:19 PM
                             [**2186-3-4**]  06:40 PM
                             [**2186-3-4**]  11:50 PM
                             [**2186-3-5**]  04:30 AM
                             [**2186-3-5**]  10:29 AM
                             [**2186-3-5**]  04:19 PM
                             [**2186-3-6**]  02:23 AM
                             [**2186-3-6**]  10:11 AM
   WBC
   27.7
   23.5
   Hct
   31.8
   29.1
   25.0
   27.7
   28.8
   28.2
   25.9
   22.1
   Plt
   461
   378
   Cr
   0.9
   0.9
   0.8
   Glucose
   97
   125
   Other labs: PT / PTT / INR:13.9/24.0/1.2, CK / CKMB / Troponin-T:53/4/,
   Differential-Neuts:88.9 %, Lymph:4.8 %, Mono:4.0 %, Eos:1.9 %, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Imaging: No new imaging.
   Microbiology: No new data.
   Assessment and Plan
   86 y/o F started taking NSAIDs after cat bite (site appears infected),
   presented with coffee ground emesis.
   # GIB: Presumed UGIB - gastritis vs. PUD in setting of NSAID use after
   cat bite and stoping PPI
   - Hct decreased this am
 plan for repeat PRBC
   - PPI
   - GI following - evaluating for endoscopy this am
   - [**Doctor First Name **] following
   # Cat bite: leukocytosis and redness/cellulitis at site
   - Amp/Sulbactam to cover usual cat bite pathogens
   - Fluctuance
 drain today
   #Goiter:
   - Repeat CT scan as CXR showing increasingly tortuous trachea path
   suggesting increasing size
   - Depending on impact on trachea and pt
s wishes, further workup
   possible thoracic, endo or IP consults depending on CT.
   - Check TFTs
   # Ureteral stents: Placed in [**2169**].  UTI.
   - Urology to consult.
   - F/U urine culture
 consider broadening GN coverage
   Please see resident note for remainder of plan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-4**] 02:55 PM
   20 Gauge - [**2186-3-4**] 06:05 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :  ICU today to assess BP/HR /Hct after transfusion
   Total time spent: 25 minutes
   Patient is critically ill

2186-03-07 07:47:00 Physician Resident Progress Note
Chief Complaint: hematemesis
   24 Hour Events:
 ENDOSCOPY - At [**2186-3-6**] 11:31 AM
 BLOOD CULTURED - At [**2186-3-6**] 08:23 PM
   - I&D done of right hand cat bite lesion
   - EGD showed multiple ulcerations in GE junction, middle and lower
   esophagous.
   - Diet advanced to clears then full liquids
   - abd/pelvic CT: bilateral renal calculi, new right hydronephrosis,
   mild displacement of proximal pigtail (usually in renal pelvis)
   inferiorly compared to prior.
   - GI: can discuss w/ surgery re: surgical mgmnt of ulcers; ok to use
   [**Hospital1 **] ppi and not drip
   - ID: start vanc since MRSA pos but can d/c vanc once wound cx neg
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2186-3-5**] 04:00 AM
   Vancomycin - [**2186-3-6**] 06:03 PM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-7**] 03:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-6**] 08:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2186-3-7**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 63 (63 - 87) bpm
   BP: 106/48(62) {102/41(56) - 145/68(87)} mmHg
   RR: 28 (14 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,928 mL
                                                                    177 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  1,993 mL
                                                                    177 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,800 mL
                                                                    600 mL
   Urine:
                                                                  1,800 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,128 mL
                                                                   -423 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   376 K/uL
   9.7 g/dL
   91 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   16 mg/dL
   109 mEq/L
   143 mEq/L
   29.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2186-3-4**]  03:19 PM
                             [**2186-3-4**]  06:40 PM
                             [**2186-3-4**]  11:50 PM
                             [**2186-3-5**]  04:30 AM
                             [**2186-3-5**]  10:29 AM
                             [**2186-3-5**]  04:19 PM
                             [**2186-3-6**]  02:23 AM
                             [**2186-3-6**]  10:11 AM
                             [**2186-3-6**]  06:00 PM
                             [**2186-3-7**]  03:40 AM
   WBC
   27.7
   23.5
   18.6
   Hct
   31.8
   29.1
   25.0
   27.7
   28.8
   28.2
   25.9
   22.1
   31.7
   29.7
   Plt
   461
   378
   376
   Cr
   0.9
   0.9
   0.8
   0.9
   Glucose
   97
   125
   91
   Other labs: PT / PTT / INR:13.7/26.0/1.2, CK / CKMB / Troponin-T:53/4/,
   Differential-Neuts:83.8 %, Lymph:8.8 %, Mono:4.0 %, Eos:2.9 %, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: CT Abdomen and Pelvis:
   IMPRESSION:
   1. New left hydronephrosis. There is also slight downward displacement
   of
   the proximal pigtail portion of the right NU stent, with the pigtail
   now
   coiled within the renal pelvis rather than in upper pole calix as
   before.
   Multiple bilateral renal calculi are again demonstrated. A few 2-3 mm
   calculi
   are seen adjacent to the right NU stent, in the mid-distal portion of
   the
   ureter in the pelvis.
   2. The bladder is distended, and there is a focus of gas within the
   bladder,
   possibly related to instrumentation. Please correlate.
   3. Extensive colonic diverticulosis.
   4. Probable cholelithiasis.
   5. Small bilateral pleural effusions and associated atelectasis.
   6. Intrathoracic stomach.
   Microbiology: Wound culture: NGTD
   Urine Cx: NGTD
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   86 year old female with history of HTN, depression, and GIB presenting
   with one day of hemetemesis in the context of extensive ASA use
   admitted to icu for upper GIB assessment.
    1.) Gastrointestinal Bleed:  Patient with likely upper GIB probably
   from ASA use +/- stopping PPI causing ulceration or
   gastritis/duodenitis.  Chest CT [**3-5**] ruled out volvulus but showed
   unchanged hiatal hernia.
   - EGD per GI today
   - Continue IV PPI drip
   -Two peripheral IV
s, active type and cross
   -Ondansetron and metoclopramide PRN for nausea
   -Transfuse for Hct <25 or Hct drop of > 3 in six hours, Check Hct Q 6
   hrs
    2)  Leukocytosis:  The patient has a history of elevated WBC counts
   and has had partial evals for myeloid process in the past.  Potentially
   due to cat bite/infection as well as UTI with vomiting and other
   reasons for elevated WBC count though this still seems quite high.  No
   abnormal or left shifted forms suggesting failure of myeloid
   differentiation.
   -treat cat bite per below
   -trend leukocytosis and fever curve, repeat diff in AM
    3.) EKG changes:  These are improved on repeat ECG, which seems
   consistent with resolution of demand ischemia as tachycardia and anemia
   were treated.  Patient now with two sets of negative cardiac enzymes.
   -will monitor for any cardiac sx
    4. Cat Bite: Patient denied fever, chills in ICU but reported in ED.
   Given high rate of infection of cat bites empirically treating with
   ampicillin-sublactam. Today, area of bite is fluctuant. Pt has
   consented to drainage of abscess
   -needle drainage of abscess after EGD with pt sedated today
    5.)  [**Last Name (un) **]: Most likely Cr elevation due to dehydration/prerenal.  Cr
   now down to 0.8.
   -Continue to follow.
    6) Probable UTI: Probable UTI given pyuria, nitrites, and leukocyte
   esterase.
   -UTI most likely E coli given nitrites which should be covered by
   amp-sublactam, no further abx at this time but will f/u cx
   -Patient with known temporary stent that has not been removed- per
   urology ([**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]) wanted KUB this am. Now would like CT non
   contrast abd and pelvis to look for hydro and stent placement. Will
   discuss this with pt today.
    7)  Goiter on R side of neck: TSH and T4  WNL  this admission. Goiter
   slightly larger on CT Chest [**3-5**]
   -arrange o/p endocrine f/u
    8) Social: Pt lives alone and reports trouble getting to MD [**Last Name (Titles) 5915**]
   (though cat sees vet 2*/yr) Will get SW involved to find resources for
   this very pleasant lady.  She seems to have trouble with transportation
   and will talk to social work about this.
    # COMM: [**Name (NI) **] and neighbor [**First Name8 (NamePattern2) 129**] [**Name (NI) 3383**] [**Telephone/Fax (1) 5891**] (H), [**Telephone/Fax (1) 5892**]
   (cell)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-6**] 04:07 PM
   18 Gauge - [**2186-3-6**] 06:06 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to floor

2186-03-07 11:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: UGI bleed, sepsis
   24 Hour Events:
   Upper endoscopy with multiple ulcers, but no active bleeding.
   GI recommending surgery for thoracic stomach
   I&D of hand (2 cc serosangunous fluid)
   Vanc added as MRSA screen positive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2186-3-5**] 04:00 AM
   Vancomycin - [**2186-3-7**] 08:36 AM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-7**] 10:35 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-6**] 08:23 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-7**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.3
C (97.4
   HR: 65 (60 - 87) bpm
   BP: 122/60(74) {102/41(56) - 145/68(87)} mmHg
   RR: 26 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,928 mL
                                                                    511 mL
   PO:
                                                                    560 mL
             TF:
   IVF:
                                                                  1,993 mL
                                                                    511 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,800 mL
                                                                    900 mL
   Urine:
                                                                  1,800 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,128 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Cat bite decreasing in size
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   376 K/uL
   91 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.7 mEq/L
   16 mg/dL
   109 mEq/L
   143 mEq/L
   29.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2186-3-4**]  03:19 PM
                             [**2186-3-4**]  06:40 PM
                             [**2186-3-4**]  11:50 PM
                             [**2186-3-5**]  04:30 AM
                             [**2186-3-5**]  10:29 AM
                             [**2186-3-5**]  04:19 PM
                             [**2186-3-6**]  02:23 AM
                             [**2186-3-6**]  10:11 AM
                             [**2186-3-6**]  06:00 PM
                             [**2186-3-7**]  03:40 AM
   WBC
   27.7
   23.5
   18.6
   Hct
   31.8
   29.1
   25.0
   27.7
   28.8
   28.2
   25.9
   22.1
   31.7
   29.7
   Plt
   461
   378
   376
   Cr
   0.9
   0.9
   0.8
   0.9
   Glucose
   97
   125
   91
   Other labs: PT / PTT / INR:13.7/26.0/1.2, CK / CKMB / Troponin-T:53/4/,
   Differential-Neuts:83.8 %, Lymph:8.8 %, Mono:4.0 %, Eos:2.9 %, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Microbiology: MRSA screen positive.  Cultures NGTD.
   Assessment and Plan
   86 y/o F started taking NSAIDs after cat bite (site appears infected),
   presented with coffee ground emesis.
   # GIB: PUD in setting of NSAID use after cat bite and stoping PPI.  S/p
   scope
   - PPI
   - GI recommending surgical correction of thoracic stomach
   - [**Doctor First Name **] following
   # Cat bite: leukocytosis and redness/cellulitis at site
   - Amp/Sulbactam to cover usual cat bite pathogens
   - Vanc added for MRSA coverage
   - F/U I&D culture
   # Ureteral stents: Placed in [**2169**].  UTI.
   - Urology following.
   - F/U urine culture
 consider broadening GN coverage given
   instrumentation.
   Will need stent removal by Dr [**Last Name (STitle) 5961**] or by IR with PCN. This will
   need to be addressed with patient on account of social supports at home
   too
   #Elevated WBC count: In this setting, most likely c/w infection, but
   has a history of chronically and dramatically increased WBC counts in
   the past.
   - [**Month (only) 51**] warrant heme eval on the floor or as outpatient.
   Please see resident note for remainder of plan.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-6**] 04:07 PM
   18 Gauge - [**2186-3-6**] 06:06 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 20 minutes